US04113722
(b) 11β-(acetyloxy)-9-fluoro-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one
A solution of 11β-acetyloxy-9-fluoropregna-1,4,16-triene-3,20-dione (77 mg) in dry acetonitrile (1.0 ml) containing bis-trimethylsilyltrifluoroacetamide (0.3 ml) and trimethylchlorosilane (0.05 ml) is heated in a closed pressure vial in a bath at 110° C. for 17 hours. The mixture is evaporated in vacuo and the residue is crystallized from ethyl acetatehexane to afford 40 mg of the title compound as a solid.

reactant | 11β-acetyloxy-9-fluoropregna-1,4,16-triene-3,20-dione | 77 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(C)=O)[C@]2(C1)C)=O)C)F | C23H27FO4
reactant | bis-trimethylsilyltrifluoroacetamide | 0.3 ml | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | trimethylchlorosilane | 0.05 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
product | 11β-(acetyloxy)-9-fluoro-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one | 40 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(=C)O[Si](C)(C)C)[C@]2(C1)C)=O)C)F | C26H35FO4Si
